US07622583B2
A mixture of 4-chloro-N-[5-chloro-2-(2-chloro-6-fluoro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.17 mmol) in 4 M HCl in dioxane (5 mL) and water (1 mL) was heated at reflux for 3 h. The reaction mixture was cooled to room temperature, evaporated to dryness, and neutralized with saturated aqueous NaHCO3 solution to pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (Na2SO4), filtered and concentrated. The residual solid was purified by flash column chromatography (70% EtOAc-hexanes) on silica gel to afford 4-chloro-N-[5-chloro-2-(2-chloro-6-fluoro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (62 mg) as an off white solid in 67% yield. MS m/z: 527 (M+H), 549 (M+Na).

reactant | 4-chloro-N-[5-chloro-2-(2-chloro-6-fluoro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.17 mmol, 100 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1F)Cl)=O)C(F)(F)F | C21H13Cl3F4N2O4S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[5-chloro-2-(2-chloro-6-fluoro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 62 mg, 67% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1F)Cl)=O)C(F)(F)F | C19H9Cl3F4N2O3S
